US04772600
2-(3-Chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid ethyl ester
Solid N-[3-[(3-chlorobenzoyl)amino]-2-pyridinyl]glycine ethyl ester, 12.84 g (0.038 mole) was heated in glass at 210°-20° C. in a Wood's metal bath for 7 minutes. The residue was dissolved in methylene chloride, treated with charcoal, and filtered through a Celite pad. The orange filtrate was treated with Florisil® to give a pink filtrate. The filtrate was evaporated to give a solid, which was recrystallized from tetrahydrofuran-petroleum ether. The solid was collected, washed with petroleum ether, and dried under high vacuum at 50° C. for 5 hours to give 5.3 g (44%) of title compound, mp 98°-99.8° C.

reactant | N-[3-[(3-chlorobenzoyl)amino]-2-pyridinyl]glycine ethyl ester | C(C)OC(CNC1=NC=CC=C1NC(C1=CC(=CC=C1)Cl)=O)=O | C16H16ClN3O3
reactant | charcoal | C | CH4
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-(3-Chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid ethyl ester | 5.3 g, 44% | C(C)OC(CN1C(=NC=2C1=NC=CC2)C2=CC(=CC=C2)Cl)=O | C16H14ClN3O2
